US04638067
1-Ethyl-6-fluoro-1,4-dihydro-7-(2,7-diazaspiro[4.4]-non-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid Hydrochloride
A suspension of of 1.10 g (4.00 mmol) 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid in 40 ml acetonitrile was treated with 1.10 g (8.7 mmol) 2,7-diazaspiro[4.4]nonane and the mixture was stirred at room temperature 4.5 hours. A crude solid was filtered, stirred with 10 ml water, filtered, dissolved in 100 ml 6 M ammonium hydroxide and lyophilized to afford 0.53 g of solid. This was dissolved in dilute hydrochloric acid, filtered, lyophilized and crystallized from ethanol-water to give 0.26 g of the title compound, mp >300° C.

reactant | 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 4.00 mmol, 1.10 g | C(C)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C11H8ClFN2O3
reactant | 2,7-diazaspiro[4.4]nonane | 8.7 mmol, 1.10 g | C1NCCC12CNCC2 | C7H14N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-(2,7-diazaspiro[4.4]-non-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid Hydrochloride | 0.53 g | Cl.C(C)N1C=C(C(C2=CC(=C(N=C12)N1CC2(CC1)CNCC2)F)=O)C(=O)O | InChI=1S/C18H21FN4O3.ClH/c1-2-22-8-12(17(25)26)14(24)11-7-13(19)16(21-15(11)22)23-6-4-18(10-23)3-5-20-9-18;/h7-8,20H,2-6,9-10H2,1H3,(H,25,26);1H
